US04409220
Ethyl-2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine-7-carboxylate
This compound was prepared analogous to Example 13 by reacting a mixture of ethyl hexahydroazepine-3,4-dione-1-carboxylate and ethyl hexahydroazepine-4,5-dione-1-carboxylate (prepared from ethyl hexahydroazepine-4-one-1-carboxylate by selenium dioxide oxidation) with 2-amino-acetamidine dihydrobromide.

reactant | ethyl hexahydroazepine-3,4-dione-1-carboxylate | N1(CC(C(CCC1)=O)=O)C(=O)OCC | C9H13NO4
reactant | ethyl hexahydroazepine-4,5-dione-1-carboxylate | N1(CCC(C(CC1)=O)=O)C(=O)OCC | C9H13NO4
reactant | 2-amino-acetamidine dihydrobromide | Br.Br.NCC(=N)N
product | Ethyl-2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine-7-carboxylate | C(C)OC(=O)N1CCC2=C(CC1)N=CC(=N2)N | C11H16N4O2
